US07820675B2
[2-(Dimethylamino)ethyl](5-nitro-1-benzofuran-7-yl)amine
Xylene (75 mL) was added to 7-iodo-5-nitro-1-benzofuran (1.00 g, 3.46 mmol), N,N-dimethylethane-1,2-diamine (0.37 g, 4.15 mmol), Pd2(dba)3 (0.08 g, 0.87 mmol), Xantphos (0.20 g, 0.35 mmol) and Cs2CO3 (1.59 g, 4.84 mmol). The mixture was stirred at 120° C. overnight, filtered through Celite and the solvent was removed in vacuo. The crude product was purified by flash chromatography [eluent: DCM:MeOH (6:1) and DCM:MeOH:Et3N (9:1:0.1)] to afford 0.378 g (44%) of the title compound. HPLC 90%, RT: 1.430 (System A; 10-97% MeCN over 3 min). 1H NMR (270 MHz, methanol-d4) δ ppm 2.44 (d, J=3.22 Hz, 6H) 2.81 (t, J=6.56 Hz, 2H) 3.52 (t, J=6.56 Hz, 2H) 6.97 (d, J=2.23 Hz, 1H) 7.40 (d, J=2.23 Hz, 1H) 7.89 (t, J=1.98 Hz, 2H). LC-MS 250 (M+H)+.

reactant | 7-iodo-5-nitro-1-benzofuran | 3.46 mmol, 1.00 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | N,N-dimethylethane-1,2-diamine | 4.15 mmol, 0.37 g | CN(CCN)C | C4H12N2
reactant | Xantphos | 0.35 mmol, 0.20 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 4.84 mmol, 1.59 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.87 mmol, 0.08 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Xylene | 75 mL | C=1(C(=CC=CC1)C)C | C8H10
product | [2-(Dimethylamino)ethyl](5-nitro-1-benzofuran-7-yl)amine | 0.378 g, 44% | CN(CCNC1=CC(=CC=2C=COC21)[N+](=O)[O-])C | C12H15N3O3
